US08232296B2
5-Iodo-6-methyl-2-oxo-1-[3-(trifluoromethyl)phenyl]-1,2-dihydropyridine-3-carboxylic acid
To 6-methyl-2-oxo-1-[3-(trifluoromethyl)phenyl]-1,2-dihydropyridine-3-carboxylic acid (28.6 kg, 1 mol eq, limiting reagent) was added sodium iodide (15.1 kg, 1.05 mol eq) and acetic acid (200.2 L, 7 rel vol). 90% Nitric acid (20.1 kg, 3.0 mol eq) was added dropwise. The reaction was heated to 50° C. and stirred until an HPLC assay showed reaction to be complete. The reaction was cooled and stirred. The precipitated product was collected by filtration, washed with water (171.6 L, 6 rel vol) and dried to constant weight to yield the title compound (19.2 kg, 45.4 mol, 68%); 1H NMR (CDCl3): δ 2.36 (s, 3H); 7.42 (d, 1H, J=8.1 Hz); 7.50 (s, 1H); 7.78 (t, 1H, J=7.8 Hz); 7.85 (d, 1H, J=7.9 Hz); 8.86 (s, 1H); 13.44 (s, 1H) ppm; LCMS: m/z 424.0 (MH+).

reactant | 6-methyl-2-oxo-1-[3-(trifluoromethyl)phenyl]-1,2-dihydropyridine-3-carboxylic acid | CC1=CC=C(C(N1C1=CC(=CC=C1)C(F)(F)F)=O)C(=O)O | C14H10F3NO3
reactant | sodium iodide | 1.05 mol, 15.1 kg | [I-].[Na+]
reactant | Nitric acid | 3.0 mol, 20.1 kg | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 200.2 L | C(C)(=O)O | C2H4O2
product | 5-Iodo-6-methyl-2-oxo-1-[3-(trifluoromethyl)phenyl]-1,2-dihydropyridine-3-carboxylic acid | 45.4 mol, 19.2 kg, 68% | IC=1C=C(C(N(C1C)C1=CC(=CC=C1)C(F)(F)F)=O)C(=O)O | C14H9F3INO3
